US07078405B2
8-(2,4-Dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylic acid methyl ester
Methyl 2-chloro-3-oxopentanoate (5 mL) was added to 4-(2,4-dimethylphenyl)-3-pyridazineamine (640 mg, 3.2 mmol), and the mixture was heated at 155° C. for 30 minutes. Water was added to the resulting reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with a 5N aqueous sodium hydroxide solution and brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (ethyl acetate: N-hexane=1:3) to give the title compound (373 mg, 37%) as a brown oil.

reactant | Methyl 2-chloro-3-oxopentanoate | 5 mL | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
reactant | 4-(2,4-dimethylphenyl)-3-pyridazineamine | 3.2 mmol, 640 mg | CC1=C(C=CC(=C1)C)C1=C(N=NC=C1)N | C12H13N3
solvent | Water | O | H2O
product | 8-(2,4-Dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylic acid methyl ester | 373 mg, 37% | COC(=O)C1=C(N=C2N1N=CC=C2C2=C(C=C(C=C2)C)C)CC | C18H19N3O2
